datasets/10k_Mayr_OG.csv
SMILES Labelled
C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.[N:10]1=[CH:61][CH:62]=[CH:63][CH:72]=[CH:71]1>>C1CN2CC[C:33]3=[CH:32][C:31]([CH:20]([N+:10]4=[CH:61][CH:62]=[CH:63][CH:72]=[CH:71]4)[C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1 10=20
"C1[CH:10]=[CH:11][CH:62]=[CH:63]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH:10]2C[CH:63]=[CH:62][CH+:11]2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1 10,11=10,20"
"COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>COC1=CC=C([C:11]([CH2:10][CH:20]([C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[NH+:12][C:63](C)=[O:64])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[H:10].C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20;20,21=21"
"F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34].[N:10]1=[C:11]([O-:12])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>F[S:32]([CH-:21][CH2:20][N:10]1[C:11](=[O:12])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1)(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10](C)([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([NH+:10]2CCC[C@H]2C(N=[N+]=[N-])(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=CC=C2)[C:72](=[O:73])[O:83]1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10]2(CC3=CC=CC=C3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1C[N:12]2CC[N:10]=[C:11]2[S:62]C1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH:20]([N:10]1CC[N+:12]4=[C:11]1[S:62]CCC4)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
C1=CC=C([C-:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])C=C1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C2=CC=CC=C2)([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.FC(F)(F)C[NH2:10]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH2+:10]CC(F)(F)F)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10=20
"C/[CH:63]=[CH:62]/[CH:11]([H:10])/[CH:72]=[CH:73]/C.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>C/[CH:63]=[CH:62]/[CH+:11]/[CH:72]=[CH:73]/C.N#C[CH:20]([H:10])[CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:81]([C-:10]1CCC[O:72][C:61]1=[O:62])=[O:82].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>C[C:81]([C:10]1([CH:20]2[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]2)CCC[O:72][C:61]1=[O:62])=[O:82] 10=20;20,21=21,22;22,23=23"
